US07396844B1
Synthesis of 3-(3-cyanophenoxy)propionic acid
500 mg (2.4 mmol) of methyl 3-(3-cyanophenoxy)propionate was heated in 40 ml of 6 N hydrochloric acid at 70° C. for 30 minutes. After the extraction with ethyl acetate, the extract was washed with saturated aqueous NaCl solution and then dried on anhydrous magnesium sulfate. The solvent was evaporated to obtain the title compound.

reactant | methyl 3-(3-cyanophenoxy)propionate | 2.4 mmol, 500 mg | C(#N)C=1C=C(OCCC(=O)OC)C=CC1 | C11H11NO3
solvent | hydrochloric acid | 6 N, 40 ml | Cl | ClH
product | 3-(3-cyanophenoxy)propionic acid | C(#N)C=1C=C(OCCC(=O)O)C=CC1 | C10H9NO3
